US07776857B2
In an oven-dried round bottom flask, 7-chloro-2-iodofuro[3,2-b]pyridine (0.200 g, 0.72 mmol) was dissolved in 3 mL THF and cooled to −78° C. nBuLi (0.43 ml, 1.1 mmol) was slowly added and the reaction was stirred for one hour. Meanwhile, a vial was filled with MeI and warmed to RT. Magnesium sulfate was added and the mixture was stirred for 5 minutes and filtered into another vial. Immediately from this vial, MeI (0.11 ml, 1.8 mmol) was added to the reaction which was stirred at −78° C. for 3 hours. The reaction was quenched with saturated ammonium chloride solution and warmed to RT. DCM was added, the layers were separated, and the aqueous layer was extracted twice with DCM. The combined organic layers were dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (gradient elution 0-50% EtOAc:Hex) to afford 7-chloro-2-methylfuro[3,2-b]pyridine as a light brown oil. MS: M+H+=168.3.

reactant | 7-chloro-2-iodofuro[3,2-b]pyridine | 0.72 mmol, 0.200 g | ClC1=C2C(=NC=C1)C=C(O2)I | C7H3ClINO
reactant | nBuLi | 1.1 mmol, 0.43 ml | [Li]CCCC
reactant | MeI | CI | CH3I
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | MeI | 1.8 mmol, 0.11 ml | CI | CH3I
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-chloro-2-methylfuro[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(O2)C | C8H6ClNO
